US08835454B2
Synthesis of 2-(1-phenyl-1H-tetrazol-5-yl)octahydropyrrolo[3,4-c]pyrrole
tert-butyl 5-(1-phenyl-1H-tetrazol-5-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (100 mg) was dissolved in 10% TFA solution in CH2Cl2 (10 mL). The reaction was stirred at room temperature for 24 hours. After removal of solvents, the residue, crude 2-(1-phenyl-1H-tetrazol-5-yl)octahydropyrrolo[3,4-c]pyrrole, was used in the further reactions without purification.

reactant | tert-butyl 5-(1-phenyl-1H-tetrazol-5-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 100 mg | C1(=CC=CC=C1)N1N=NN=C1N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C | C18H24N6O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-phenyl-1H-tetrazol-5-yl)octahydropyrrolo[3,4-c]pyrrole | C1(=CC=CC=C1)N1N=NN=C1N1CC2CNCC2C1 | C13H16N6
